US05204018
0.4 g of pivalic acid, 1.0 g of 3E-[trans-4-(trans-4-[1E-propenyl]cyclohexyl)cyclohexyl]allyl alcohol and 0.1 g of 4-(dimethylamino)pyridine were dissolved in 50 ml of dichloromethane and the solution was treated portionwise within 10 minutes while stirring with 0.9 g of N,N'-dicyclohexylcarodiimide. The mixture was stirred at room temperature overnight and then filtered. The filtrate was diluted with dichloromethane, washed twice with 50 ml of saturated sodium carbonate solution each time and then with water, dried over magnesium sulphate, filtered and then concentrated. Chromatography of the residue on silica gel with toluene gave 1.3 g of 3E-[trans-4-(trans-4-[1E-propenyl]cyclohexyl)cyclohexyl]-allyl pivalate.

reactant | pivalic acid | 0.4 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | 3E-[trans-4-(trans-4-[1E-propenyl]cyclohexyl)cyclohexyl]allyl alcohol | 1.0 g | C(=C\C)/[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)/C=C/CO | C18H30O
catalyst | 4-(dimethylamino)pyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3E-[trans-4-(trans-4-[1E-propenyl]cyclohexyl)cyclohexyl]-allyl pivalate | 1.3 g | C(C(C)(C)C)(=O)OC\C=C\[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)\C=C\C | C23H38O2
